US08106090B2
[(1R,2S)-1-Benzyl-2-hydroxy-3-([2S]-2-hydroxymethyl-pyrrolidin-1-yl)-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 and purification method D with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.10 g, 0.38 mmol) and (2S)-2-hydroxymethyl-pyrrolidine (0.077 g, 0.76 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.38 mmol, 0.10 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | (2S)-2-hydroxymethyl-pyrrolidine | 0.76 mmol, 0.077 g | OC[C@H]1NCCC1 | C5H11NO
product | [(1R,2S)-1-Benzyl-2-hydroxy-3-([2S]-2-hydroxymethyl-pyrrolidin-1-yl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1[C@@H](CCC1)CO)O)CC1=CC=CC=C1)=O | C20H32N2O4
